US04599332
4,5-Dihydro-6-[2-[4-(1H-imidazol-1-yl)phenyl]-ethyl]-3(2H)-pyridazinone
A solution of 2.6 g of 4,5-dihydro-6-[2-[4-(1H-imidazol-1-yl)phenyl]ethenyl]-3(2H)-pyridazinone in 100 ml of 2-methoxyethanol containing 0.5 g of 10% Pd/C is shaken under hydrogen atmosphere for 13 hours. The catalyst is filtered, the filtrate is evaporated to dryness, and the residue is crystallized from ethanol to give 2 g of the above product, mp 195°-196° C.

reactant | 4,5-dihydro-6-[2-[4-(1H-imidazol-1-yl)phenyl]ethenyl]-3(2H)-pyridazinone | 2.6 g | N1(C=NC=C1)C1=CC=C(C=C1)C=CC=1CCC(NN1)=O | C15H14N4O
solvent | 2-methoxyethanol | 100 ml, 0.5 g | COCCO | C3H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4,5-Dihydro-6-[2-[4-(1H-imidazol-1-yl)phenyl]-ethyl]-3(2H)-pyridazinone | 2 g | N1(C=NC=C1)C1=CC=C(C=C1)CCC=1CCC(NN1)=O | C15H16N4O
